US06809110B2
In analogy to the procedure described in example 10 d], [rac]-2-ethoxy-3-{2-methyl-4-[2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-phenyl}-propionic acid ethyl ester was treated with LiOH to obtain [rac]-2-ethoxy-3-{2-methyl-4-[2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-phenyl}-propionic acid as off-white solid.

reactant | [rac]-2-ethoxy-3-{2-methyl-4-[2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-phenyl}-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)OCC1=CN=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)OCC)=O | C25H26F3NO4S
reactant | LiOH | [Li+].[OH-]
product | [rac]-2-ethoxy-3-{2-methyl-4-[2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-phenyl}-propionic acid | C(C)OC(C(=O)O)CC1=C(C=C(C=C1)OCC1=CN=C(S1)C1=CC=C(C=C1)C(F)(F)F)C | C23H22F3NO4S
